US04234588
An equimolar mixture of 2-nitroamino-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone and 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine are refluxed in ethanol for 18 hours and evaporated to dryness. The residue is triturated with water and recrystallised to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone.

reactant | 2-nitroamino-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)OC | C11H11N5O4
reactant | 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)OC | C21H27N5O3S
